Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Biaxin / clarithromycin / Fosamax / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx CHF (EF 35%), A Fib on warfarin, s/p AVR and MVR 
for rheumatic heart disease with recent admission from 
___ for CHF exacerbation, PNA, and Afib with RVR s/p 
pacemaker placement who presents s/p fall from standing with 
right hip pain. On the night prior to presentation, she bent 
over to pick something up and lost her balance. Instead of 
sitting back down, she tried to walk it off, but instead she 
fell to the floor on her R leg. She denies any symptoms prior to 
falling such as chest pain, shortness of breath, lightheadedness 
or dizziness. She did not strike her head or lose consciousness. 
She endorsed immediate onset of right hip pain which is 
exacerbated with movement. No focal numbness or weakness distal 
to injury.
She was found to have right pubic rami fractures and ortho 
recommended conservative management with ___ (no surgical 
intervention). Of note, patient desatted to ___ with movement 
this morning, responded to 20 mg IV lasix.
Overall, the patient reports she has been feeling very well 
these last few days. Her activity is limited by palpitations, 
but she gets around her apartment very well. No recent chest 
pains, shortness of breath or cough. Her breathing has been 
good. Currently she reports left ankle pain. Denies any chest 
pain, shortness of breath, lightheadedness, dizziness, abdominal 
pain, N/V/D. She is on home oxygen 2L all the time. 
 
Past Medical History:
1. Type 2 diabetes.
2. Atrial fibrillation, on Coumadin.
3. Systolic heart failure with ejection fraction 25%- dry weight 
133lb
4. Status post AVR and MVR for rheumatic heart disease.
5. Hyperlipidemia.
6. Obesity.
7. History of tobacco abuse
8. Status post colostomy for diverticulosis without
diverticulitis.
9. Emphysema
10. Chronic Kidney Disease- Baseline creatinine 1.7
11. Recent Pacemaker Placement for likely tachy-brady syndrome 
 
Social History:
___
Family History:
Significant for a brother who had TB. Her father also had lung 
cancer. She reports that many family members on her mother's 
side had heart disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
ORTHO:
A&O x 3
Calm and comfortable
BUE skin clean and intact
No tenderness, deformity, erythema, edema, induration or 
ecchymosis
Arms and forearm compartments soft
No pain with passive motion
Axillary, Radial, Median, Ulnar SILT
EPL FPL EIP EDC FDP FDI fire
2+ radial pulses
Pelvis stable to AP and lateral compression.
BLE skin clean and intact
RLE painful with internal and external rotation of the hip as 
well as axial loading. Pain to palpation over medial left 
proximal thigh.
Thighs and leg compartments soft
Saphenous, Sural, Deep peroneal, Superficial peroneal SILT
___ FHS ___ TA Peroneals Fire
Doperalble ___ and DP pulses equal bilaterally 

ON TRANSFER TO MEDICINE PHYSICAL EXAM:
Vitals: T-98.3 HR-93 BP-91/56 RR-20 96% 3L NC
General: Awake, alert, NAD, oriented X3
HEENT: Moist mucus membranes, no oropharyngeal lesions
Neck: Supple, no adenopathy, JVP 2-3cm about angle ___ at 
45 degrees
CV: Mechanical first and second heart sounds, regular, no 
murmurs
Lungs: crackles ___ way up
Abdomen: Normal BS, soft, non-tender
Ext: Warm, well-perfused, chronic venous stasis changes, 1+ ___ 
pitting edema
Neuro: Moving all ___N II-XII
Psych: Appropriate, alert and oriented X3, pays good attention 

DISCHARGE PHYSICAL EXAM:
VITALS: Afebrile, VSS, BP 115/65
General: Awake, alert, NAD, oriented X3
HEENT: Moist mucus membranes, no oropharyngeal lesions
Neck: Supple, no adenopathy
CV: Mechanical first and second heart sounds, regular, no 
murmurs
Lungs: bibasilar crackles 
Abdomen: Normal BS, soft, non-tender
Ext: Warm, well-perfused, chronic venous stasis changes, 1+ ___ 
pitting edema
Neuro: Moving all ___N II-XII
Psych: Appropriate, alert and oriented X3, pays good attention 

 
Pertinent Results:
ADMISSION:

___ 06:00AM BLOOD WBC-13.8* RBC-4.26 Hgb-9.8* Hct-35.2* 
MCV-83 MCH-23.1* MCHC-27.9* RDW-20.9* Plt ___
___ 06:00AM BLOOD Neuts-90.8* Lymphs-3.8* Monos-4.4 Eos-0.6 
Baso-0.4
___ 06:00AM BLOOD ___ PTT-41.1* ___
___ 06:00AM BLOOD Glucose-175* UreaN-56* Creat-1.7* Na-142 
K-3.9 Cl-101 HCO3-28 AnGap-17
___ 05:25PM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:25PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 05:25PM URINE RBC-8* WBC-89* Bacteri-FEW Yeast-FEW 
Epi-17 TransE-1
___ 05:25PM URINE CastHy-10*
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 
HEAD CT:
IMPRESSION:
No intracranial hemorrhage or calvarial fracture.  

RIGHT FEMUR/PELVIS PLAIN FILMS:
IMPRESSION:
1.  Minimally displaced fractures of the right superior and 
inferior pubic
rami. 
2.  Status post right femoral ORIF with age-indeterminate 
fracture of an
interlocking screw in the distal femoral diaphysis. 

CXR:
IMPRESSION:
Pulmonary vascular congestion without focal consolidation. 

EKG:
Ventricular paced rhythm at 90 beats per minute. Atrial 
mechanism appears to be atrial fibrillation. Compared to the 
previous tracing of ___
ventricular ectopy is absent. Otherwise, the findings are 
similar. 

HOSPITALIZATION & DISCHARGE:
___ 05:25AM BLOOD WBC-12.0* RBC-3.91* Hgb-9.2* Hct-32.1* 
MCV-82 MCH-23.6* MCHC-28.7* RDW-21.3* Plt ___
___ 06:18PM BLOOD WBC-12.2* RBC-3.87* Hgb-8.7* Hct-32.5* 
MCV-84 MCH-22.6* MCHC-26.9* RDW-20.8* Plt ___
___ 07:17PM BLOOD WBC-13.3* RBC-3.81* Hgb-8.7* Hct-32.2* 
MCV-84 MCH-22.8* MCHC-27.0* RDW-20.9* Plt ___
___ 08:25AM BLOOD WBC-10.9 RBC-3.92* Hgb-9.1* Hct-33.0* 
MCV-84 MCH-23.2* MCHC-27.5* RDW-20.9* Plt ___
___ 06:40AM BLOOD WBC-8.8 RBC-3.71* Hgb-9.0* Hct-30.6* 
MCV-83 MCH-24.2* MCHC-29.3* RDW-21.3* Plt ___
___ 11:10AM BLOOD ___ PTT-45.1* ___
___ 08:25AM BLOOD ___ PTT-49.1* ___
___ 06:40AM BLOOD ___ PTT-44.1* ___
___ 05:25AM BLOOD Glucose-95 UreaN-54* Creat-1.6* Na-139 
K-4.4 Cl-100 HCO3-28 AnGap-15
___ 08:25AM BLOOD Glucose-139* UreaN-55* Creat-1.6* Na-137 
K-4.8 Cl-102 HCO3-25 AnGap-15
___ 06:40AM BLOOD Glucose-127* UreaN-54* Creat-1.4* Na-140 
K-4.4 Cl-102 HCO3-29 AnGap-13
___ 08:25AM BLOOD ___
___ 05:25AM BLOOD Calcium-8.9 Phos-3.6 Mg-1.8
___ 08:25AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.7
___ 06:40AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.2
___ 05:25AM BLOOD Digoxin-1.3
URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 ORGANISMS/ML..

ECHO:
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is mildly 
dilated. There is severe global left ventricular hypokinesis 
(LVEF = 20%). The right ventricular cavity is moderately dilated 
with moderate global free wall hypokinesis. There is abnormal 
septal motion/position consistent with right ventricular 
pressure/volume overload. A bioprosthetic aortic valve 
prosthesis is present. The aortic valve prosthesis appears well 
seated, with normal leaflet motion and transvalvular gradients. 
Trace aortic regurgitation is seen. A bioprosthetic mitral valve 
prosthesis is present. The mitral prosthesis appears well 
seated, with normal leaflet motion and transvalvular gradients. 
Trivial mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. Moderate to severe [3+] tricuspid 
regurgitation is seen. There is severe pulmonary artery systolic 
hypertension. There is a small pericardial effusion.

IMPRESSION: Dilated left ventricle with severe global systolic 
dysfunction. Dilated right ventricle with moderate global 
systolic dysfunction and pressure/volume overload. 
Well-functioning aortic and mitral bioprostheses. Moderate to 
severe functional tricuspid regurgitation. Severe pulmonary 
hypertension.  

CXR:
FINDINGS:  Persistent cardiomegaly accompanied by pulmonary 
vascular
congestion and interstitial edema.  Small bilateral pleural 
effusions are
present, but there is no visible pneumothorax.
 
Brief Hospital Course:
___ with PMHx CHF (EF 35%), A Fib on warfarin, s/p AVR and MVR 
for rheumatic heart disease and recent admission for CHF 
exacerbation, pneumonia, and Afib with RVR s/p pacemaker 
placement who presents s/p fall with minimally displaced 
fractures of the right superior and inferior pubic rami.

#Status-Post Fall: Appears to have been somewhat orthostatic 
causing her to fall. Plan per ortho is conservative management 
with Rehab. Exam and ECG non-concerning at this time. Patient 
initially received pain control with tylenol, tramadol and 
oxycodone.  However, her BP dropped as low as 70/40 on ___ and 
narcotics were discontinued. She received tylenol and a 
lidocaine patch for pain thereafter. Physical therapy evaluated 
and worked with the patient.

#Hypotension: BP dropped as low as 70/40 on ___. Unclear 
etiology, although differential included blood loss (which is 
unlikely given stable Hct), infection (which is unlikely given 
infectious studies negative to date), narcotic related, 
ACS-related (which is unlikely given no changes on EKG), 
systolic dysfunction, intravascular volume depletion, or 
autonomic dysfunction. She received gentle IV fluid hydration. 
She was encouraged to eat and drink. Her metoprolol, 
spironolactone, and torsemide were held given hypotension. SBP 
came up to ___ outpatient cardiologist Dr. ___ was 
contacted and recommended changing metoprolol succinate to 
metoprolol tartrate at a lower dose (25 mg PO BID) given 
hypotension and the fact that she is now paced as well as 
changing spironolactone to 12.5 mg every other day.  Her 
metoprolol was restarted in the tartrate form at 25 mg PO BID on 
___.  Her torsemide 10 mg PO daily was restarted on ___. 
Spironolactone was restarted at 12.5 mg PO every other day on 
___.  At___ cardiology was consulted and recommended an ECHO 
and BNP. BNP was elevated at >22,000 and ECHO showed LVEF of 20% 
with RV dilation and pressure/volume overload (therefore LVEF 
may be inaccurate given volume overload and possible bowing of 
RV into LV which would falsely lower LVEF measurement).  Her 
torsemide was continued for diuresis. Her BP was stable at >100 
for more than 24 hrs in the day prior to discharge.

#Systolic CHF with EF ___: Patient had crackles and 
peripheral edema on exam, likely mildly volume overloaded. Her 
outpatient cardiologist Dr. ___ was contacted regarding what 
medications patient should be on; Dr. ___ 
changing metoprolol to tartrate form and decreasing dose to 25 
BID, decreasing spironolactone dose to 12.5 QOD and consider 
increasing torsemide dose to 10 mg alternating with 20 mg if 
patient is significantly volume overloaded. In setting of low BP 
(70/40) on ___, her metoprolol, torsemide and spironolactone 
were held. Her metoprolol was restarted on ___ in the tartrate 
form at a dose of 25 BID. At___ cardiology was consulted and 
recommended an ECHO and BNP. BNP was elevated at >22,000 and 
ECHO showed LVEF of 20% with RV dilation and pressure/volume 
overload (therefore LVEF may be inaccurate given volume overload 
and possible bowing of RV into LV which would falsely lower LVEF 
measurement).  Torsemide 10 mg PO daily was restarted on ___. 
Her spironolactone was restarted at 12.5 mg every other day on 
___. Patient was not on an ACE-inhibitor (perhaps related to 
elevated Cr).An ACE-inhibitor was not started during this 
hospitalization.  The initiation of an ACE-inhibitor was 
discussed with Dr. ___ recommended holding off on 
starting an ACE-i given patient's hypotension. The initiation of 
an ACE-i should be discussed with patient as an outpatient.

#A Fib on Warfarin: Patient's INR was supratherapuetic at 5.0 on 
___. Warfarin was held and INR was allowed to drift down.  
Metoprolol was held due to hypotension but was restarted in the 
tartrate form at 25 BID on ___. Digoxin level was high at 1.3 
on ___ (per recent discharge summary, goal level is 0.5-0.8), 
discussed with Dr. ___ recommended decreasing dose to 
0.0625 mg QOD (does not reach steady state for ___ days so 
digoxin level will need to be checked the week after discharge). 
Dr. ___ put in patient's pacemaker was contacted regarding 
pacemaker rate of 90 bpm and he advised that he will not change 
the pacemaker rate during this hospitalization. She will require 
close follow-up with cardiology Dr. ___ 
electrophysiologist Dr. ___ Dr. ___ pacemaker 
interrogation and lowering of the pacemaker rate.

#Constipation: Patient was continued on senna and colace with 
polyethylene glycol as needed.

#Diabetes: Patient's glipizide was held and she was placed on a 
gentle humalog sliding scale while in ___ and ___'s ranged 
from 100s-200s.  She will be restarted on glipizide upon 
discharge.

#Emphysema: Patient received albuterol and ipratropium nebs and 
was continued on home inhalers.

#Gout: Patient's allopurinol was held initially but restarted 
prior to discharge.

# CODE: DNR/DNI (patient has discussed this with husband)
# CONTACT: Husband ___ ___ Son ___ cell: 
___

TRANSITIONAL ISSUES:
-Please monitor blood pressure
-Please ensure patient follows up with cardiologist Dr. ___ 
___ ___ weeks
-Please ensure patient follows up with electrophysiology 
specialist Dr. ___ pacemaker interrogation and 
resetting of pace to a lower pace
-Please check INR within ___ days, goal INR is ___ please note 
that patient's anticoagulation will be managed by ___ 
___ clinic
-Please recheck digoxin level 1 week after discharge, goal level 
is 0.5-0.8
-Please follow-up final blood cultures from ___
-Please consider starting an ACE-inhibitor
-Please monitor patient for osteoporosis as she is at risk and 
make sure she is on appropriate calcium and Vitamin D 
supplements
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Digoxin 0.125 mg PO EVERY OTHER DAY 
5. Omeprazole 20 mg PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Warfarin 3.5 mg PO DAILY16 
8. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
9. Docusate Sodium 100 mg PO BID constipation 
10. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
11. Maalox/Diphenhydramine/Lidocaine 30 mL PO QID:PRN 
indigestion 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Senna 1 TAB PO BID 
14. Spironolactone 12.5 mg PO DAILY 
15. Torsemide 10 mg PO DAILY 
16. TraZODone 50 mg PO HS:PRN Insomnia 
17. Metoprolol Succinate XL 50 mg PO QAM 
18. Metoprolol Succinate XL 100 mg PO QHS 
19. GlipiZIDE 5 mg PO DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 1000 mg PO TID:PRN heart burn 
4. Digoxin 0.0625 mg PO EVERY OTHER DAY 
RX *digoxin 125 mcg 0.5 (One half) tablet(s) by mouth every 
other day Disp #*15 Tablet Refills:*0
5. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB 
6. Omeprazole 20 mg PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. Senna 1 TAB PO BID 
9. Torsemide 10 mg PO DAILY 
10. Acetaminophen 650 mg PO TID 
11. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % (700 mg/patch) Please apply patch to where 
patient has pain DAILY Disp #*10 Transdermal Patch Refills:*0
12. Allopurinol ___ mg PO DAILY 
13. GlipiZIDE 5 mg PO DAILY 
14. Maalox/Diphenhydramine/Lidocaine 30 mL PO QID:PRN 
indigestion 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. TraZODone 50 mg PO HS:PRN Insomnia 
17. Docusate Sodium 100 mg PO BID constipation 
18. Spironolactone 12.5 mg PO EVERY OTHER DAY 
19. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0
20. Warfarin 1 mg PO DAILY 
21. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 
hold for sedation or RR<10 
RX *oxycodone 5 mg 0.5 (One half) capsule(s) by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: pubic rami fractures s/p fall
Secondary: systolic congestive heart failure, chronic 
obstructive pulmonary disease, atrial fibrillation s/p pacemaker 
placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___ was a pleasure taking care of you at ___. You were admitted 
on ___t home. You were found to have fractures 
of your pelvis. Orthopedic surgery advised that there was no 
indication for surgery and recommended rehab.  

Please keep your follow-up appointments as below (please 
follow-up with your primary care physician, cardiologist and 
pacemaker physician).  Weigh yourself every morning, call MD if 
weight goes up more than 3 lbs. Please return to the emergency 
room if you experience chest pain, shortness of breath, fevers, 
chills, or any other new or concerning symptoms. 

We wish you the best,
Your ___ team
 
Followup Instructions:
___